US07375134B2
Synthesis of N1-(cyanomethyl)-N2-[2,2,2-trifluoro-1-(3-pyridin-4-ylphenyl)ethyl]-L-leucinamide
Using the procedure described for example 8, where N2-[1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide was substituted for N2-[1-(3-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide, the title compound was obtained as a colorless gum.

reactant | N2-[1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide | BrC1=CC=C(C=C1)C(C(F)(F)F)N[C@@H](CC(C)C)C(=O)NCC#N | C16H19BrF3N3O
reactant | N2-[1-(3-bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-leucinamide | BrC=1C=C(C=CC1)C(C(F)(F)F)N[C@@H](CC(C)C)C(=O)NCC#N | C16H19BrF3N3O
product | N1-(cyanomethyl)-N2-[2,2,2-trifluoro-1-(3-pyridin-4-ylphenyl)ethyl]-L-leucinamide | C(#N)CNC([C@@H](NC(C(F)(F)F)C1=CC(=CC=C1)C1=CC=NC=C1)CC(C)C)=O | C21H23F3N4O
